*----------------------------------------------------------
.subckt AD8034_8pins_2opAmps 1out 1in- 1in+ vcc- 2in+ 2in- 2out vcc+
.lib ADI.lib
XA 1in+ 1in- vcc+ vcc- 1out AD8033
XB 2in+ 2in- vcc+ vcc- 2out AD8033
.ends
* Multipart model for AD746. Based on model AD746 located in .lib  ADI1.lib
.subckt AD746_8pins_2opAmps 1out 1in- 1in+ vcc- 2in+ 2in- 2out vcc+
.lib  ADI1.lib
XA 1in+ 1in- vcc+ vcc- 1out AD746
XB 2in+ 2in- vcc+ vcc- 2out AD746
.ends
* Multipart model for AD8092. Based on model AD8092 located in ADI.lib
.subckt AD8092_8pins_2opAmps out1 in1- in1+ vcc- in2+ in2- out2 vcc+
.lib ADI.lib
XA in1+ in1- vcc+ vcc- out1 AD8092
XB in2+ in2- vcc+ vcc- out2 AD8092
.ends
* Multipart model for AD8040. Based on model AD8040 located in ADI.lib
.subckt AD8040_14pins_4opAmps out1 in1- in1+ vcc+ in2+ in2- out2 out3 in3- in3+ vcc- in4+ in4- out4
.lib ADI.lib
XA in1+ in1- vcc+ vcc- out1 AD8040
XB in2+ in2- vcc+ vcc- out2 AD8040
XC in3+ in3- vcc+ vcc- out3 AD8040
XD in4+ in4- vcc+ vcc- out4 AD8040
.ends
* Multipart model for AD8040. Based on model AD8040 located in ADI.lib
.subckt AD8040_14pins_4opAmps out1 in1- in1+ vcc+ in2+ in2- out2 out3 in3- in3+ vcc- in4+ in4- out4
.lib ADI.lib
XA in1+ in1- vcc+ vcc- out1 AD8040
XB in2+ in2- vcc+ vcc- out2 AD8040
XC in3+ in3- vcc+ vcc- out3 AD8040
XD in4+ in4- vcc+ vcc- out4 AD8040
.ends

